US06350759B1
2-Ethoxy-1,3,4-trimethylbenzene
734 mmol (101.5 g) of potassium carbonate and 917 mmol (143.1 g) of ethyl iodide are added in succession to a solution of 367 mmol (50 g) of 2,3,6-trimethylphenol in 1500 ml of acetonitrile. The whole is heated at reflux for 48 hours. The reaction mixture is subsequently cooled and then filtered and the filtrate is concentrated. The residue obtained is dissolved in ethyl acetate and washed with water and then with 10% aqueous sodium chloride solution. After drying the organic phase and then concentrating, an oily residue is obtained which is purified by chromatography on silica gel, using a petroleum ether: ethyl acetate mixture 95:5 as eluant, to yield the expected product.

reactant | potassium carbonate | 734 mmol, 101.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 917 mmol, 143.1 g | C(C)I | C2H5I
reactant | 2,3,6-trimethylphenol | 367 mmol, 50 g | CC1=C(C(=CC=C1C)C)O | C9H12O
solvent | acetonitrile | 1500 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Ethoxy-1,3,4-trimethylbenzene | C(C)OC1=C(C=CC(=C1C)C)C | C11H16O
